US09145411B2
Step 3: tert-butyl (5-(7-(3-(cyclopropanecarboxamido)phenyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate
To a 25 mL round bottom flask, tert-butyl (5-(7-(3-aminophenyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate (0.2 g, 0.0004 mol), cyclopropane carboxylic acid (0.041 g, 0.00048 mol) and DMF (8 mL) were added. To the same flask, HATU (0.46 g, 0.0012 mol) and TEA (0.22 mL, 0.0016 mol) were added. The reaction mass was stirred at room temperature for 12 hours. The volatiles were evaporated to dryness under reduced pressure to provide a residue. The residue was stirred with water to provide a solid and the solid was collected by filtration. The solid was washed with diethyl ether to provide the crude product. The crude product was purified by flash column chromatography (1-2% methanol in chloroform) to afford the title compound (0.15 g, 66%). 1H NMR (300 MHz, DMSO-d6): δ 10.42 (br s, 2H), 9.48 (s, 1H), 9.07 (d, J=2.4 Hz, 1H), 8.31 (d, J=1.8 Hz, 1H), 8.20 (s, 1H), 7.47-7.67 (m, 3H), 4.57 (br s, 4H), 3.84 (s, 4H), 1.84-1.80 (m, 1H), 1.49 (s, 9H), 0.85-0.83 (m, 4H): LC-MS (ESI): Calculated mass: 568.2; Observed mass [M+H]+: 569.2 (RT=1.56 min).

reactant | tert-butyl (5-(7-(3-aminophenyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate | 0.0004 mol, 0.2 g | NC=1C=C(C=CC1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)C=1C=NC(=NC1)NC(OC(C)(C)C)=O | C26H28N8O3
reactant | cyclopropane carboxylic acid | 0.00048 mol, 0.041 g | C1(CC1)C(=O)O | C4H6O2
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
reactant | HATU | 0.0012 mol, 0.46 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | water | O | H2O
product | tert-butyl (5-(7-(3-(cyclopropanecarboxamido)phenyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate | 0.15 g, 66% | C1(CC1)C(=O)NC=1C=C(C=CC1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)C=1C=NC(=NC1)NC(OC(C)(C)C)=O | C30H32N8O4
